US07786110B2
To a stirred suspension of zinc dust (3.06 g, 46.86 mmol) in THF (15 ml) was added 1,2-dibromoethane (0.327 ml, 3.83 mmol). The reaction mixture was heated until the evolution of ethylene was completed. Trimethylsilyl chloride (0.013 ml), THF (5 ml) and 2-bromothiazole (1.39 ml, 15.62 mmol) were added, and the reaction mixture was stirred for 20 minutes at room temperature. 5-Iodo-4′-methyl-biphenyl-3-carboxylic acid methyl ester (5.0 g, 14.2 mmol) and Pd(PPh3)4 (492.3 mg, 0.462 mmol) were added, and the mixture was refluxed for 14 hours. The reaction mixture was cooled in an ice bath and extracted with EtOAc, washed with saturated aqueous NH4Cl, brine, dried over anhydrous Na2SO4, filtered, and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel, eluting with hexanes-ethyl acetate (1:6), giving 4′-methyl-5-thiazol-2-yl-biphenyl-3-carboxylic acid methyl ester as a light yellow solid (0.42 g, 80%). MS (M+H)=310.

reactant | 1,2-dibromoethane | 3.83 mmol, 0.327 ml | BrCCBr | C2H4Br2
reactant | ethylene | C=C | C2H4
reactant | Trimethylsilyl chloride | 0.013 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | 2-bromothiazole | 15.62 mmol, 1.39 ml | BrC=1SC=CN1 | C3H2BrNS
reactant | 5-Iodo-4′-methyl-biphenyl-3-carboxylic acid methyl ester | 14.2 mmol, 5.0 g | COC(=O)C=1C=C(C=C(C1)I)C1=CC=C(C=C1)C | C15H13IO2
solvent | THF | 15 ml | C1CCOC1 | C4H8O
catalyst | zinc | 46.86 mmol, 3.06 g | [Zn] | Zn
catalyst | Pd(PPh3)4 | 0.462 mmol, 492.3 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 4′-methyl-5-thiazol-2-yl-biphenyl-3-carboxylic acid methyl ester | 0.42 g, 80% | COC(=O)C=1C=C(C=C(C1)C=1SC=CN1)C1=CC=C(C=C1)C | C18H15NO2S
